US07902197B2
A mixture of 1-[2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (0.067 g, 0.16 mmol), 0.4 mL dioxane, 0.4 mL water, Pd2(dba)3 (0.009 g, 0.01 mmol), 2-di-t-butylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl (0.008 g, 0.02 mmol), and freshly ground KOH (0.038 g, 0.67 mmol) in a sealed tube under N2 was stirred at 100° C. for 15 h. The resulting orange-black mixture was partitioned between 5 mL of ethyl acetate and 5 mL of water, with a few drops of ethanol added to reduce emulsions. The aqueous layer was extracted with 5 mL of ethyl acetate. The combined organic layers were dried over Na2SO4, filtered, and concentrated to an orange oil. Silica gel chromatography (20→40% EtOAc/hexanes) afforded 0.029 g (51%) of 7-(2,2-dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-1,5-dihydro-pyrrolo[2,3-b]pyrazin-2-one as a pale yellow solid.

reactant | 1-[2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.16 mmol, 0.067 g | BrC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C17H26BrN3O2Si
reactant | dioxane | 0.4 mL | O1CCOCC1 | C4H8O2
reactant | 2-di-t-butylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl | 0.02 mmol, 0.008 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
reactant | KOH | 0.67 mmol, 0.038 g | [OH-].[K+]
catalyst | Pd2(dba)3 | 0.01 mmol, 0.009 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 0.4 mL | O | H2O
product | 7-(2,2-dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-1,5-dihydro-pyrrolo[2,3-b]pyrazin-2-one | 0.029 g, 51% | CC(C(=O)C1=CN(C=2N=CC(NC21)=O)COCC[Si](C)(C)C)(C)C | C17H27N3O3Si
